US08609804B2
Inside a glove box, a 125 mL round-bottom flask equipped with a stirring bar, reflux condenser, and gas inlet was charged with 4,4′-dibromobiphenyl-2,2′-disulfonyl dichloride (10.18 g, 20 mmoles) and aluminum chloride (5.87 g, 44 mmoles). Benzene (14 mL) and anhydrous nitromethane (40 mL) were added and the mixture stirred until dissolved. The solution was heated to 100° C. for about 8 hours. The solution was cooled to room temperature and poured onto 200 g ice mixed with 100 mL hydrochloric acid. The mixture was extracted several times with dichloromethane. The organic extracts were washed twice with water, dried with sodium carbonate, filtered, and evaporated to give 11.75 g (99%). The mixture was purified by column chromatography using silica gel and dichloromethane (Rf 0.32) to give 8.73 g (74% yield) of 2,2′-bis-benzenesulfonyl-4,4′-dibromobiphenyl.

reactant | 4,4′-dibromobiphenyl-2,2′-disulfonyl dichloride | 20 mmoles, 10.18 g | BrC=1C=C(C(=CC1)C=1C(=CC(=CC1)Br)S(=O)(=O)Cl)S(=O)(=O)Cl | C12H6Br2Cl2O4S2
reactant | aluminum chloride | 44 mmoles, 5.87 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Benzene | 14 mL | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | nitromethane | 40 mL | [N+](=O)([O-])C | CH3NO2
product | 2,2′-bis-benzenesulfonyl-4,4′-dibromobiphenyl | 8.73 g, 74% yield | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC(=C1)Br)C1=C(C=C(C=C1)Br)S(=O)(=O)C1=CC=CC=C1 | C24H16Br2O4S2
